US08541407B2
A solution of 3-amino-4-chloropyridine (5 g, 39 mmol), 2-nitrobenzoyl chloride (5.1 mL, 39 mmol) and pyridine (11 mL) in tetrahydrofuran (50 mL) was stirred for 20 hours. The reaction mixture was partitioned between water (200 mL) and dichloromethane (600 mL). The phases were separated and the organic phase was washed with water (150 mL) then brine (150 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 10% ethyl acetate in dichloromethane). The N-(4-chloropyridin-3-yl)-2-nitrobenzamide was obtained as a brown solid (2.0 g). LCMS [M+H]: 279.

reactant | 3-amino-4-chloropyridine | 39 mmol, 5 g | NC=1C=NC=CC1Cl | C5H5ClN2
reactant | 2-nitrobenzoyl chloride | 39 mmol, 5.1 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(4-chloropyridin-3-yl)-2-nitrobenzamide | ClC1=C(C=NC=C1)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H8ClN3O3
